### ISSUE TITLE
attribute [-simp] cannot be undone

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#5868]
This seems like a bug, and not a feature: Once a theorem is `attribute [-simp] a_eq_b`’ed, it cannot be made `[simp]` again:

```
axiom a : Nat
axiom b : Nat
axiom a_eq_b : a = b

axiom P : Nat → Nat → Prop
@[simp] axiom P_b : P b b

/-- error: simp made no progress -/
#guard_msgs in example : P a b := by simp

attribute [simp] a_eq_b

example : P a b := by simp

attribute [-simp] a_eq_b

/-- error: simp made no progress -/
#guard_msgs in example : P a b := by simp

attribute [simp] a_eq_b
/-- error: simp made no progress -/
#guard_msgs in example : P a b := by simp
```

I stumbled over this while testing changes for #5828.

I wonder how complicated it will be to describe the intended semantics of these attributes, also with regard to `local` and `scoped`. But it seems that one cannot even use `local` and `scoped` with `[-simp]`?

### Versions

Lean 4.12.0-nightly-2024-10-28
Target: x86_64-unknown-linux-gnu

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Judging from the code, it is also the case that an `attribute [-simp]` is always restricted to the local module, given
```
inductive SimpEntry where
  | thm      : SimpTheorem → SimpEntry
  | toUnfold : Name → SimpEntry
  | toUnfoldThms : Name → Array Name → SimpEntry
  deriving Inhabited

abbrev SimpExtension := SimpleScopedEnvExtension SimpEntry SimpTheorems
```

Hmm, we don’t have hover on `[-simp]` to explain the behavior of `-simp`.

I briefly wondered if this should be made more explicit by only allowing
```
attribute [-local simp]
```
but that’s not supported by the attribute grammar. Maybe fine to just document this at some point.
